Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:10]([C:8](=[O:7])[H:9])([H:11])[H:12]>>[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]1([H:11])[H:12],2.36577049752
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.23393628164
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],3.4491550441199994
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],4.69620556775
[C:1]#[C:2][C:3][C:6]([H:7])[H:8].[O:4]=[O:5]>>[C:1]#[C:2][C:3]([O:4][O:5])=[C:6]([H:7])[H:8],0.313947483191
[H:12].[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](/[H:11])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.9608313318
[C:2]([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])=[C:14]([H:15])[H:16].[H:1][C:4]([C:3][H:17])([H:5])[H:6]>>[H:1][C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.776955007740001
[C:1]#[C:2].[C:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.9200136965
[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1][O:2][C:3]#[C:4],2.66175226642
[H:5].[O:1]=[C:2]([H:3])/[C:4](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.5628525212600002
[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[C:3])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.45173677714
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7](\[H:8])[O:9][H:10].[H:6],1.6510863452700002
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.93337064719
[H:1][O:2]/[C:3]([H:4])=[C:5]1/[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],2.65018469915
[H:1][C:2]([H:3])=[C:5]=[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.91753129287
[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.39889761692
[C:5]([H:6])#[C:7][H:8].[H:1][C:2][O:3][C:4]=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7][H:8])=[C:9]([H:10])[H:11],-2.17943225733
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:14].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13],4.65638617648
[C:1]#[C:2][O:3][C:4].[O:5]=[C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])[H:8],0.351912546211
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],4.64304714511
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12],4.99494833836
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3],7.04441008
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:14]([C:13]=[C:10]([H:11])[H:12])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]1([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]1([H:15])[H:16],0.2603931848599999
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.239182132840001
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2](=[C:3][H:4])[C:15]([H:16])([H:17])[H:18],4.40119615964
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[C:5]([H:6])#[C:7][O:8][C:9]([H:10])[H:11].[H:1][O:2][C:3][H:4],3.18898887481
